US07557125B2
Preparation of (E)-3-(6-aminopyridin-3-yl)-N-(1,2-dimethyl-1H-indol-3-ylmethyl)-N-methylacrylamide
To a stirred solution of 1,2-methyl-3-methylaminomethyl)-1H-indole (0.8 g, 4.2 mmole) in 1:1 DMF/CH2Cl2 (30 mL) at RT was added (E)-3-(6-aminopyridin-3-yl)acrylic acid (0.7 g, 4.3 mmole), Et3N (0.61 mL, 4.3 mmole), HOBt.H2O (0.58 g, 4.3 mmole) and EDC (0.83 g, 4.3 mmole). After 16 h the reaction was concentrated under vacuum and the residue was taken up in EtOAc (100 mL). The solution was washed with 1.0 N Na2CO3 (100 mL) then with brine, dried (Na2SO4), and concentrated. Purification by flash chromatography on silica gel (4% MeOH/CHCl3) followed by trituration with 1:1 Et2O/petroleum ether and drying under vacuum gave the tide compound (1.36 g, 97%) as an off-white solid: MS (ES) m/e 335.2 (M+H)+.

reactant | 1H-indole | 4.2 mmole, 0.8 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | (E)-3-(6-aminopyridin-3-yl)acrylic acid | 4.3 mmole, 0.7 g | NC1=CC=C(C=N1)/C=C/C(=O)O | C8H8N2O2
reactant | Et3N | 4.3 mmole, 0.61 mL | CCN(CC)CC | C6H15N
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 4.3 mmole, 0.58 g | O | H2O
reactant | EDC | 4.3 mmole, 0.83 g
solvent | DMF CH2Cl2 | 30 mL | CN(C)C=O.C(Cl)Cl
product | (E)-3-(6-aminopyridin-3-yl)-N-(1,2-dimethyl-1H-indol-3-ylmethyl)-N-methylacrylamide | 1.36 g, 97% | NC1=CC=C(C=N1)/C=C/C(=O)N(C)CC1=C(N(C2=CC=CC=C12)C)C | C20H22N4O
